US06262324B1
Ethylene/Propylene/1-Butene Terpolymer
This experiment was carried out in a similar manner as Example 1, except that the reaction was a batch reaction. A 1-liter autoclave reactor was thoroughly apurged with nitrogen and then charged with 300 ml of dried toluene. Through the mass flow controller, ethylene, propylene. 1-butene and hydrogen were fed into the reactor at a ratio of 4000 cc/min, 3600 cc/min, 400 cc/min, and 400 cc/min, respectively. Methyl aluminoxane in toluene solution, 46.9 mg-atom, as aluminum atom, and 0.015 mg-atom, as Zr atom, of bis(isopropylcyclopentadienyl)zirconium dichloride in toluene solutions were injected at 50° C. and 15 psig pressure. After 3 hours, the reaction was quenched with 1% aq. HCl, then washed with aqueous 1M NaOH, followed by a large quantity of water. After stripping off toluene, the reaction gave 348 grams of liquid terpolymer. The polymerization conditions and physical properties of the reactor product are summarized in Table IV. The crude reactor product was thermally cracked as described in Example 3, followed by distilling off the light polymer through a Vigreux column. The residue was hydrogenated with 1 wt % of 10% Pd on active carbon. The final hydrogenated liquid terpolymer had a kinematic viscosity at 100° C. of 9.6 cSt and viscosity index of 158; Mn of 1006, Mw/Mn of 1.24. The composition of the terpolymer, determined by C-13 NMR, was 72 mole % of ethylene, 25 mole % of propylene, and 3 mole % of butene. The physical properties are summarized in Table V.

reactant | ethylene | C=C | C2H4
reactant | propylene | C=CC | C3H6
reactant | 1-butene | C=CCC | C4H8
reactant | hydrogen | [H][H] | H2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | bis(isopropylcyclopentadienyl)zirconium dichloride | [Cl-].[Cl-].C(C)(C)C1(C=CC=C1)[Zr+2]C1(C=CC=C1)C(C)C
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | Ethylene/Propylene 1-Butene | 348 grams | C=C.C=CC.C=CCC | InChI=1S/C4H8.C3H6.C2H4/c1-3-4-2;1-3-2;1-2/h3H,1,4H2,2H3;3H,1H2,2H3;1-2H2
